US07598391B2
4-[2-(3,3-Dicyclohexyl-ureido)-thiazole-5-carbonyl]-piperazine-1-sulfonic acid dimethylamide
2-(3,3-Dicyclohexyl-ureido)-thiazole-5-carboxylic acid (53 mg, 0.15 mmol), piperazine sulfonic acid dimethylamide hydrochloride (44 mg, 0.19 mmol), and HBTU (74 mg, 0.19 mmol) were weighed out and added to a 10 mL reaction flask. DMF (1.5 mL) and DIEA (65 μL, 0.38 mmol) were added. The reaction was stirred under nitrogen at ambient temperature overnight. The reaction was diluted with EtOAc (5 mL) and quenched with saturated aqueous NH4Cl (5 mL). After separation and extraction with EtOAc (2×5 mL) the combined organic portions were dried over MgSO4. Purification with silica gel (10% EtOAc and 1% MeOH in CH2Cl2) afforded 53 mg (67%) of the desired compound.

reactant | 2-(3,3-Dicyclohexyl-ureido)-thiazole-5-carboxylic acid | 0.15 mmol, 53 mg | C1(CCCCC1)N(C(NC=1SC(=CN1)C(=O)O)=O)C1CCCCC1 | C17H25N3O3S
reactant | piperazine sulfonic acid dimethylamide hydrochloride | 0.19 mmol, 44 mg | Cl.CN(S(=O)(=O)N1CCNCC1)C
reactant | HBTU | 0.19 mmol, 74 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.38 mmol, 65 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-[2-(3,3-Dicyclohexyl-ureido)-thiazole-5-carbonyl]-piperazine-1-sulfonic acid dimethylamide | 53 mg, 67% | CN(S(=O)(=O)N1CCN(CC1)C(=O)C1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1)C | C23H38N6O4S2
